US09079864B2
A solution of 5-bromo-2-isopropoxybenzonitrile (1.0 g, 4.16 mmol) in tetrahydrofuran was treated with copper (I) iodide (0.158 g, 0.83 mmol) and then purged with Argon for 5 minutes. Trimethyl silyl acetylene (2.85 g, 29.16 mmol) was then added followed by dichlorobis-(triphenylphosphine)palladium(II) (0.291 g, 0.41 mmol). The resultant mixture was heated at 80° C. overnight in a sealed tube. The mixture was evaporated and purified by column chromatography to give 2-isopropoxy-5-((trimethylsilyl)ethynyl)benzonitrile which was taken to the next step. 2-isopropoxy-5-((trimethylsilyl)ethynyl)benzonitrile (1.0 g, 3.8 mmol) in methanol (20 mL) was treated with potassium carbonate (1.07 g, 7.7 mmol) at room temperature overnight. The reaction was filtered and the filtrate was evaporated to give the crude product. The crude product was purified on a column (MPLC) using hexane:ethyl acetate and afforded Intermediate 1.

reactant | 5-bromo-2-isopropoxybenzonitrile | 4.16 mmol, 1.0 g | BrC=1C=CC(=C(C#N)C1)OC(C)C | C10H10BrNO
reactant | Trimethyl silyl acetylene | 29.16 mmol, 2.85 g | C[Si](C#C)(C)C | C5H10Si
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
catalyst | copper (I) iodide | 0.83 mmol, 0.158 g | [Cu]I
catalyst | dichlorobis-(triphenylphosphine)palladium(II) | 0.41 mmol, 0.291 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 2-isopropoxy-5-((trimethylsilyl)ethynyl)benzonitrile | C(C)(C)OC1=C(C#N)C=C(C=C1)C#C[Si](C)(C)C | C15H19NOSi
